US08242102B2
1.4 tert-Butyl 3-(3-(phenylsulfonyl)quinolin-8-yl)azetidine-1-carboxylate
To a solution of 8-iodo-3-(phenylsulfonyl)quinoline (200 mg, 0.51 mmol, prepared according to WO2003080580) in DMA (1 ml) was added PdCl2(dppf) (8.3 mg, 0.10 mmol; dppf=1,1′-bis(diphenylphosphino)ferrocene) and CuI (11.6 mg, 0.06 mmol), followed by dropwise addition of (1-(tert-butoxycarbonyl)azetidin-3-yl)-zinc(II) iodide (317 mg, 0.91 mmol) in DMA (1 ml) over 10 min. The mixture was then heated at 80° C. for 6 h, then stirred at room temperature for 150 h and quenched with a saturated aqueous solution of NaCl. The reaction mixture was extracted with tert.-butyl-methyl-ether (MTBE). The organic phases were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography to give the title compound (54 mg, 25%) as a light yellow oil.

reactant | 8-iodo-3-(phenylsulfonyl)quinoline | 0.51 mmol, 200 mg | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | C15H10INO2S
reactant | (1-(tert-butoxycarbonyl)azetidin-3-yl)-zinc(II) iodide | 0.91 mmol, 317 mg | [I-].C(C)(C)(C)OC(=O)N1CC(C1)[Zn+]
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
catalyst | PdCl2(dppf) | 0.10 mmol, 8.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 0.06 mmol, 11.6 mg | [Cu]I
product | tert-Butyl 3-(3-(phenylsulfonyl)quinolin-8-yl)azetidine-1-carboxylate | 54 mg, 25% | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)C1CN(C1)C(=O)OC(C)(C)C | C23H24N2O4S
